US08748624B2
STEP D: 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.1 mL, 0.30 mmol) was added to a THF (1 mL) and MeOH (0.5 mL) solution of ethyl 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoate (73 mg, 0.15 mmol) and the homogeneous mixture was stirred at room temperature. After 3 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 0.30 mmol, 0.1 mL | [OH-].[Na+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoate | 0.15 mmol, 73 mg | C1(=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC=CC=C1 | C30H29N3O3
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoic acid | C1(=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C1=CC=CC=C1 | C28H25N3O3
